US08877968B2
200 mg (0.48 mmol) of ethyl 1-[(R)-2-amino-3-(4-chlorophenyl)propionyl]-4-cyclohexylpiperidine-4-carboxylate and 105 mg (0.52 mmol) of para-nitrophenyl chloroformate are dissolved in 5 mL of dichloromethane. The mixture is stirred for 2 hours at room temperature and the solution is then poured into aqueous 20% NH4OH solution and extracted with dichloromethane. The organic phase is washed with water and then dried over sodium sulfate and evaporated. The colourless oil obtained is diluted in 5 mL of DMF, the mixture is heated to 80° C., 58 mg (0.52 mmol) of histamine are then added and the solution is stirred for 5 minutes at 80° C. and for 10 minutes at room temperature. The reaction is stopped by adding aqueous 5% citric acid solution, and the organic products are extracted with DCM. The organic phase is washed with aqueous 1N NaOH solution and then with water. After drying over sodium sulfate and evaporation, the crude product obtained is chromatographed on silica gel (eluent: 80/20 DCM/MeOH). 40 mg of ethyl 1-((R)-3-(4-chlorophenyl)-2-{3-[2-(1H-imidazol-4-yl)ethyl]ureido}propionyl)-4-cyclohexylpiperidine-4-carboxylate in the form of a colourless oil are obtained in a yield of 15%.

reactant | ethyl 1-[(R)-2-amino-3-(4-chlorophenyl)propionyl]-4-cyclohexylpiperidine-4-carboxylate | 0.48 mmol, 200 mg | N[C@@H](C(=O)N1CCC(CC1)(C(=O)OCC)C1CCCCC1)CC1=CC=C(C=C1)Cl | C23H33ClN2O3
reactant | para-nitrophenyl chloroformate | 0.52 mmol, 105 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | NH4OH | [NH4+].[OH-]
reactant | histamine | 0.52 mmol, 58 mg | NCCC1=CNC=N1 | C5H9N3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | ethyl 1-((R)-3-(4-chlorophenyl)-2-{3-[2-(1H-imidazol-4-yl)ethyl]ureido}propionyl)-4-cyclohexylpiperidine-4-carboxylate | 40 mg, yield of 15% | ClC1=CC=C(C=C1)C[C@H](C(=O)N1CCC(CC1)(C(=O)OCC)C1CCCCC1)NC(=O)NCCC=1N=CNC1 | C29H40ClN5O4
